US07273877B2
Ethyl 6-chloro-4-(2-fluoro-4-iodoanilino)nicotinate (2.03 g, 4.83 mmol) was dissolved in acetic acid (75 mL), to which was added water (25 mL). This solution was heated at reflux for 14 h. The mixture was allowed to cool, then refrigerated, and a cream solid crystallised out. This material was isolated by filtration, washed well with water and hexanes, then dried to afford ethyl 4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxylate as a white solid (1.14 g, 59%), m.p. (acetone/MeOH) 262-264° C. 1H NMR [(CD3)2SO, 400 MHz] δ 11.59 (br s, 1H), 9.32 (s, 1H), 8.10 (s, 1H), 7.77 (dd, J=10.1, 1.9 Hz, 1H), 7.61 (ddd, J=8.4, 2.0, 0.8 Hz, 1H), 5.38 (d, J=1.3 Hz, 1H), 7.26-7.33 (m, 1H), 4.27 (q, J=7.1 Hz, 2H), 1.30 (t, J=7.1 Hz, 3H). Anal. Calcd for C14H12FIN2O3: C, 41.8; H, 3.0; N, 7.0. Found: C, 41.9; H, 2.8; N, 7.0.

reactant | Ethyl 6-chloro-4-(2-fluoro-4-iodoanilino)nicotinate | 4.83 mmol, 2.03 g | ClC1=NC=C(C(=O)OCC)C(=C1)NC1=C(C=C(C=C1)I)F | C14H11ClFIN2O2
reactant | water | 25 mL | O | H2O
solvent | acetic acid | 75 mL | C(C)(=O)O | C2H4O2
product | ethyl 4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxylate | 1.14 g, 59% | FC1=C(NC=2C(=CNC(C2)=O)C(=O)OCC)C=CC(=C1)I | C14H12FIN2O3
